US08168788B2
(5-Chloro-2-{3-[4-(4-chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-phenyl)-urea
To a solution of acetic acid 4-[4-(4-chloro-benzoyl)-piperazin-1-yl]-1-(4-chloro-2-ureido-phenyl)-pyrrolidin-3-yl ester (60 mg, 0.11 mmol) in MeOH (2 mL), was added K2CO3 (30 mg). The mixture was stirred for 2 h. After concentrating, the residue was purified by column chromatography (ethyl acetate:MeOH:Et3N: 10:1:0.1)) to give the desired product (20 mg, 50% yield) as a yellow oil. MS (ESI), M/Z, 478 (M+1). Retention time: 1.68 min (FA-polar).

reactant | acetic acid 4-[4-(4-chloro-benzoyl)-piperazin-1-yl]-1-(4-chloro-2-ureido-phenyl)-pyrrolidin-3-yl ester | 0.11 mmol, 60 mg | ClC1=CC=C(C(=O)N2CCN(CC2)C2C(CN(C2)C2=C(C=C(C=C2)Cl)NC(=O)N)OC(C)=O)C=C1 | C24H27Cl2N5O4
reactant | K2CO3 | 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 2 mL | CO | CH4O
product | (5-Chloro-2-{3-[4-(4-chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-phenyl)-urea | 20 mg, 50% yield | ClC=1C=CC(=C(C1)NC(=O)N)N1CC(C(C1)O)N1CCN(CC1)C(C1=CC=C(C=C1)Cl)=O | C22H25Cl2N5O3
